US05639748
A solution of 5-(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)-2,4-pentadienal (3 g) in ethanol (100 ml) and platinum oxide was shaken under hydrogen (50 psi) for 2 hours, filtered, concentrated and the residue chromatographed on silica gel eluted with a gradient of methanol-methylene chloride (3:97°-7:93) to give 0.5 g of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-pentanal.

reactant | 5-(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)-2,4-pentadienal | 3 g | ClC1=CC=C(C2=C1CCN(CC2)C)C=CC=CC=O | C16H18ClNO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | platinum oxide | [Pt]=O
product | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-pentanal | 0.5 g | ClC1=CC=C(C2=C1CCN(CC2)C)CCCCC=O | C16H22ClNO
